US08030302B2
5-Bromo-4-methoxy-2-methylaniline
To a solution of N-(5-bromo-4-methoxy-2-methylphenyl)acetamide (108 g, 0.42 mol) in MeOH (400 mL) is added concentrated HCl (160 mL, 2 mol). After being heated at reflux overnight, the mixture is neutralized with aqueous NaHCO3, and extracted with EtOAc (1200 mL). The organic phase is dried and concentrated to afford the product (76 g, 84% yield). MS (m/z): 216.0 (M+H).

reactant | N-(5-bromo-4-methoxy-2-methylphenyl)acetamide | 0.42 mol, 108 g | BrC=1C(=CC(=C(C1)NC(C)=O)C)OC | C10H12BrNO2
reactant | HCl | 2 mol, 160 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 400 mL | CO | CH4O
product | 5-Bromo-4-methoxy-2-methylaniline | 76 g, 84% yield | BrC=1C(=CC(=C(N)C1)C)OC | C8H10BrNO
